US06881844B2
A mixture of 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (300 mg, 1.21 mmol), potassium carbonate (419 mg, 3.03 mmol), and iodomethylcyclopentane (383 mg, 1.82 mmol) in N,N-dimethylformamide (4 mL) in a sealed reaction vessel was heated at 60° C. for 6 h. At this time, the reaction was cooled to 25° C. and partitioned between water (50 mL) and ethyl acetate (50 mL). This mixture was treated with a 1N aqueous hydrochloric acid solution (15 mL), shaken, and separated. The organic layer was concentrated in vacuo to afford an orange oil. The resulting oil was treated with a 20% aqueous sodium hydroxide solution (7 mL) and was heated at 110° C. for 40 h. At this time, the reaction was cooled to 25° C. and was partitioned between water (50 mL) and ethyl acetate (50 mL). This solution was treated with a 1N aqueous hydrochloric acid solution (20 mL), shaken, and separated. The organic layer was washed with a saturated aqueous sodium chloride solution (1×50 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 6-chloro-1-cyclopentylmethyl-1H-indole-3-carboxylic acid (331 mg, 98%) as a yellow-orange solid: mp 181-184° C.; EI-HRMS m/e calcd for C15H16ClNO2 (M+) 277.0870, found 277.0873.

reactant | 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 1.21 mmol, 300 mg | ClC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5ClF3NO
reactant | potassium carbonate | 3.03 mmol, 419 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethylcyclopentane | 1.82 mmol, 383 mg | ICC1CCCC1 | C6H11I
reactant | sodium hydroxide | 7 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 6-chloro-1-cyclopentylmethyl-1H-indole-3-carboxylic acid | 331 mg, 98% | ClC1=CC=C2C(=CN(C2=C1)CC1CCCC1)C(=O)O | C15H16ClNO2
